US06933387B2
b) (4R,10aR)-8-Bromo-4-methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
4-Methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester (0.83 g; 2.4 mmol) was dissolved in dimethylformamide (7 mL) and N-bromosuccinimide (0.43 g, 2.5 mmol) was added in portions. The mixture was stirred for 1 h, added to ice water (500 mL) and extracted with diethylether (2×150 mL). Organic phases were pooled, washed with water, dried with MgSO4 and the solvent was removed in vacuo. Chromatography on silica gel (n-hexane/diethylether 4:1) yielded the title product as a colorless wax (0.99 g, 98%). ISP-MS: m/e=435.3, 437.3 (M+H+).

reactant | 4-Methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 2.4 mmol, 0.83 g | C(C)(C)(C)OC(=O)N1CC2N(C=3C=C(C=CC3C2)C(F)(F)F)C(C1)C | C18H23F3N2O2
reactant | N-bromosuccinimide | 2.5 mmol, 0.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | (4R,10aR)-8-Bromo-4-methyl-7-trifluoromethyl-3,4,10,10a-tetrahydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C=3C=C(C(=CC3C2)Br)C(F)(F)F)[C@@H](C1)C | C18H22BrF3N2O2
